US07259266B2
Step 1. Preparation of ethyl-6-Chloro-8-[(3-fluorophenyl)ethynyl]-2-(trifluoromethyl)-2H-chromene-3-carboxylate
To 0.502 g (1.161 mmole) of ethyl-6-chloro-8-iodo-2-(trifluoromethyl)-2H-chromene-3-carboxylate was added 67 mg (0.060 mmole) tetrakis(triphenylphosphine)palladium(0), 22 mg (0.116 mmole) copper (I) iodide, 10 mL degassed toluene, 0.484 mL (3.48 mmole) degassed TEA, and 0.199 mL (1.74 mmole) 3-fluorophenylacetylene. The mixture was stirred overnight at room temperature. The mixture was concd and the resulting oil was purified using reverse phase chromatography to afford 0.440 g (89%) of a crystalline solid: 1H NMR (CDCl3/400 MHz) 1.35 (t,3H, J=6.8 Hz), 4.28-4.37 (m, 2H), 5.83 (q, 1H, J=6.8 Hz), 7.04-7.09 (m, 1H), 7.18 (d, 1H, J=2.4 Hz), 7.20-7.23 (m, 1H), 7.30-7.33 (m, 2H), 7.44 (d, 1H, J=2.8 Hz), 7.63 (s, 1H); MS (ES+) 425 (M+1, 100).

reactant | ethyl-6-chloro-8-iodo-2-(trifluoromethyl)-2H-chromene-3-carboxylate | 1.161 mmole, 0.502 g | C(C)OC(=O)C=1C(OC2=C(C=C(C=C2C1)Cl)I)C(F)(F)F | C13H9ClF3IO3
reactant | 3-fluorophenylacetylene | 1.74 mmole, 0.199 mL | FC=1C=C(C=CC1)C#C | C8H5F
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.060 mmole, 67 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | copper (I) iodide | 0.116 mmole, 22 mg | [Cu]I
product | ethyl-6-Chloro-8-[(3-fluorophenyl)ethynyl]-2-(trifluoromethyl)-2H-chromene-3-carboxylate | 0.440 g, 89% | C(C)OC(=O)C=1C(OC2=C(C=C(C=C2C1)Cl)C#CC1=CC(=CC=C1)F)C(F)(F)F | C21H13ClF4O3
